US05446212
A reduced methyl bromide process for making tetrabromobisphenol A in methanol, including: dissolving bisphenol-A in a methanol solvent to form a bisphenol-A methanol solution, adding bromine to the bisphenol-A methanol solution to brominate bisphenol-A and form tetrabromobisphenol A and hydrogen bromide, exposing the bisphenol-A methanol solution to an amount of a hydrogen peroxide agent to reduce the amount of methyl bromide co-product resulting from the bromination of bisphenol-A in methanol by reducing the amount of hydrogen bromide co-product available to react with the methanol, and collecting the resulting tetrabromobisphenol A product thus formed after the bromination is substantially complete.

reactant | bisphenol-A methanol | CO.OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O
reactant | hydrogen peroxide | OO | H2O2
reactant | methyl bromide | CBr | CH3Br
solvent | methanol | CO | CH4O
product | bisphenol-A | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
